US20010046991A1
1.04 g (5.0 mmol) of N-(4-nitrophenyl)piperazine was dissolved in 5 ml of dimethylformamide. Sodium hydride (0.24 g, 6.0 mmol) was added to the reaction mixture in three portions under nitrogen atmosphere and cooling over a period of 10 min. After 30 min of stirring, 0.31 ml (6.0 mmol) of methyl iodide was added dropwise to the reaction mixture at 0° C. Stirring was continued for 1 h at room temperature, the reaction mixture was then evaporated to dryness, and purified by silica gel chromatography (methylene chloride:methanol:triethylamine 94:5:1) to yield 1.0 g (90%) of 1-methyl-4-(4-nitrophenyl)piperazine.

reactant | N-(4-nitrophenyl)piperazine | 5.0 mmol, 1.04 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | Sodium hydride | 6.0 mmol, 0.24 g | [H-].[Na+]
reactant | methyl iodide | 6.0 mmol, 0.31 ml | CI | CH3I
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-methyl-4-(4-nitrophenyl)piperazine | 1.0 g, 90% | CN1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C11H15N3O2
